US04101661
(g) 1-(4-Acetylbenzenesulfonyl)pyrrolidine
A solution of 500 ml. of 50% aqueous pyrrolidine is treated in portions with 30.0 g. of 4-acetylbenzenesulfonyl chloride and the solution is stirred at room temperature for 1 hour. The resulting mixture is cooled to 0°-5° C. and the precipitated 1-(4-acetylbenzenesulfonyl)pyrrolidine is collected by filtration, washed with water and dried; m.p. 138°-139° C. after crystallizations from aqueous methanol and from 2-propanol.

reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | 4-acetylbenzenesulfonyl chloride | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)Cl | C8H7ClO3S
product | 1-(4-Acetylbenzenesulfonyl)pyrrolidine | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)N1CCCC1 | C12H15NO3S
